Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R elbow pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HMED ADMISSION NOTE

___ with ankylosing spondylitis on Humira since ___ 
presenting after traumatic injury of R elbow with avulsion 
injury after bicycle accident in ___, where he lives. He was 
seen at an ED there, where it was cleaned and sutures were 
placed, and he was given keflex - only took one pill. He then 
came to ___ and was seen in plastics outpatient clinic where 
the sutures were removed and he was started on Bactrim DS, and 
took two doses of each, after which the swelling and pain in his 
elbow worsened so he presented to the ___ ED. 

In the ED, he was hemodynamically stable and afebrile. He 
received IV clinda, Unasyn, Vancomycin and had itching, 
generalized erythema to vancomycin, and was admitted to the 
medical floor. Repeat films confirmed no foreign bodies and no 
fracture. 

Upon arrival to the floor, he denies any pain at rest. No 
fevers, chills, diarrhea, constipation, trouble urinating. 10 pt 
ROS otherwise negative. 
 
Past Medical History:
Ankylosing spondylitis
tib-fib fracture RLE ___ snowboarding
right ankle fracture ___ snowboarding
s/p abdominal varicose vein removal ___
wisdom teeth extraction

 
Social History:
___
Family History:
Thinks both his father and grandfather have ankylosing 
spondylitis due to stature though do not have a formal 
diagnosis. Also notable for cancer. 
 
Physical Exam:
Admission Exam: 
afebrile, VSS
Gen: young man in NAD, pleasant, AxOx3, speaking full sentences
HEENT: NCAT, sclerae anicteric, OP clear, MMM
Neck: soft, FROM
Pulm: CTAB no w/r/r
CV: RRR, no m/r/g, normal S1, S2
Abd: soft, NT, ND, BS+
Ext: warm, dry
   RUE: erythema with surround marker, swelling surround the r 
elbow without fluctuance, minimal TTP, no crepitus, no drainage, 
wound is dry. nearly full ROM, distal pulses intact. 
Neuro: AxOx3, CN ___ intact, gait narrow based and steady
GU: no foley, otherwise deferred
Psych: full range of affect

Discharge Exam: 
afebrile, VSS
Gen: young man in NAD, pleasant, AxOx3, speaking full sentences
HEENT: NCAT, sclerae anicteric, OP clear, MMM
Neck: soft, FROM
Pulm: CTAB no w/r/r
CV: RRR, no m/r/g, normal S1, S2
Abd: soft, NT, ND, BS+
Ext: warm, dry
   RUE: dry traumatic elbow wound without drainage, minimal 
swelling and minimal erythema in comparison to prior day. No 
fluctuance or crepitus, FROM. erythema has significantly receded 
from drawn borders.  
Neuro: AxOx3, CN ___ intact, gait narrow based and steady
GU: no foley, otherwise deferred
Psych: full range of affect
 
Pertinent Results:
Admission: 
___ 03:45PM BLOOD WBC-8.0 RBC-5.53 Hgb-17.1 Hct-49.1 MCV-89 
MCH-30.9 MCHC-34.8 RDW-12.8 RDWSD-41.5 Plt ___
___ 03:45PM BLOOD Glucose-89 UreaN-12 Creat-1.1 Na-139 
K-3.8 Cl-99 HCO3-29 AnGap-15
___ 04:20PM BLOOD Lactate-1.7

Films: No acute fracture dislocation is seen.  No posterior 
elbow joint effusion is seen.  No radiopaque foreign body is 
identified.  Possible soft tissue  disruption posterior to the 
proximal ulna. 
IMPRESSION:   No radiopaque foreign body seen. 

Discharge: 
___ 07:16AM BLOOD WBC-5.9 RBC-5.20 Hgb-15.7 Hct-45.4 MCV-87 
MCH-30.2 MCHC-34.6 RDW-12.5 RDWSD-39.8 Plt ___
___ 07:16AM BLOOD Glucose-100 UreaN-11 Creat-0.9 Na-137 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 07:16AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.___ with ankylosing spondilytis on Humira presenting with 
worsening erythema and swelling after traumatic elbow injury, 
improving on clindamycin. 

# R elbow cellulitis: Reasonable to cover broadly, initial wound 
very deep and still with erythema and swelling though appears to 
be significantly improved from initial injury, especially in 
immunocompromised host due to Humira. He significantly improved 
overnight on IV clinda and was transitioned to PO and discharged 
home to complete a 7 day course. 
- hold Humira until discussing with primary care doctor
- complete clinda course

# Vancomycin reaction: By description per ED and patient, likely 
red man syndrome. If need to take at any time, infuse at ___ 
rate and make Benadryl available. Discussed with patient to make 
his PCP aware as well. 

Medically stable for discharge. 
> 30 minutes spent on discharge day services, counseling, and 
coordination of care. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Humira Pen (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 
WEEKS 

 
Discharge Medications:
1. Clindamycin 450 mg PO Q8H 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth three times a 
day Disp #*18 Capsule Refills:*0 -> called by pharmacy regarding 
incorrect # pills dispensed and verbally corrected amount. 
2. Humira Pen (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 
WEEKS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital with a soft tissue infection 
called cellulitis after your bicycle accident. You were given IV 
antibiotics and responded very well, and you were transitioned 
to oral antibiotics. Please continue to take the antibiotics 
until they are finished. 

Please avoid drinking alcohol while taking antibiotics. 

Please DO NOT TAKE your Humira until you speak with your doctor. 


We wish you all the best. 
 
Followup Instructions:
___